US09371320B2
C) (2,2-dimethylcyclopentyl)hydrazine trihydrochloride
A mixture of tert-butyl 2-(2,2-dimethylcyclopentyl)hydrazinecarboxylate (2.4 g) and hydrogen chloride in saturated methanol solution (30 mL) was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the obtained solid was washed with diethyl ether to give the title compound (2.0 g).

reactant | tert-butyl 2-(2,2-dimethylcyclopentyl)hydrazinecarboxylate | 2.4 g | CC1(C(CCC1)NNC(=O)OC(C)(C)C)C | C12H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | (2,2-dimethylcyclopentyl)hydrazine trihydrochloride | 2.0 g | Cl.Cl.Cl.CC1(C(CCC1)NN)C | InChI=1S/C7H16N2.3ClH/c1-7(2)5-3-4-6(7)9-8;;;/h6,9H,3-5,8H2,1-2H3;3*1H
